US05204473
N,N'-Di-(1-cyclohexyloxy-2,2,6,6-tetramethylpiperidin-4-yl)-1,6-hexanediamine
A mixture of 15.0 g (59.1 mmol) of 1-cyclohexyloxy-2,2,6,6-tetramethylpiperidin-4-one, 3.4 g (29.6 mmol) of 1,6-hexanediamine, 500 mg of platinum oxide, and 150 ml of ethanol is hydrogenated in a Paar apparatus for 4 hours. The catalyst is removed by filtration. The filtrate is concentrated to an oil which is purified by flash chromatography (silica gel:ethyl acetate, then ethyl acetate:methanol) to afford 9.7 g {55% yield) of the title compound, as a yellow oil.

reactant | 1-cyclohexyloxy-2,2,6,6-tetramethylpiperidin-4-one | 59.1 mmol, 15.0 g | C1(CCCCC1)ON1C(CC(CC1(C)C)=O)(C)C | C15H27NO2
reactant | 1,6-hexanediamine | 29.6 mmol, 3.4 g | C(CCCCCN)N | C6H16N2
catalyst | platinum oxide | 500 mg | [Pt]=O
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | N,N'-Di-(1-cyclohexyloxy-2,2,6,6-tetramethylpiperidin-4-yl)-1,6-hexanediamine | 55% yield | C1(CCCCC1)ON1C(CC(CC1(C)C)NCCCCCCNC1CC(N(C(C1)(C)C)OC1CCCCC1)(C)C)(C)C | C36H70N4O2
